US07709500B2
4-(4-Chloro-2-methylcarbamoyl-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester
Bromo-tris-pyrrolidinophosphonium hexafluorophosphate (1.57 g, 3.37 mmol) was added to a vigorously stirred mixture of 2-{[1-(tert-butoxycarbonyl)piperidin-4-yl]oxy}-5-chlorobenzoic acid (1.00 g, 2.8 mmol) and 40% aq methylamine (2 ml) in DCM (10 ml). Stirring was continued for 30 min. before partitioning between 1N hydrochloric acid (10 ml) and dichloromethane (10 ml). The organic layer was separated and washed with saturated sodium bicarbonate solution (20 ml) and water (20 ml), then dried over sodium sulfate and the solvent removed under reduced pressure. The residue was purified by flash column chromatography eluting with ethyl acetate:isohexane (1:1) to give the title compound as a colourless solid (0.84 g).

reactant | Bromo-tris-pyrrolidinophosphonium hexafluorophosphate | 3.37 mmol, 1.57 g | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
reactant | 2-{[1-(tert-butoxycarbonyl)piperidin-4-yl]oxy}-5-chlorobenzoic acid | 2.8 mmol, 1.00 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)O)C=C(C=C1)Cl | C17H22ClNO5
reactant | methylamine | 2 ml | CN | CH5N
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-Chloro-2-methylcarbamoyl-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | 0.84 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)Cl)C(NC)=O | C18H25ClN2O4
